US04755594
(1-Phenylcyclohexyl)methylamine
1-Phenylcyclohexane carbonitrile is reduced with H2 in methanol containing 16% ammonia with a Raney nickel catalyst. The catalyst is filtered off and (1-phenylcyclohexyl)methylamine is precipitated as its hydrochloride salt m.p. 230°-33° C., by treatment with methanolic HCl and isopropyl ether.

reactant | 1-Phenylcyclohexane carbonitrile | C1(=CC=CC=C1)C1(CCCCC1)C#N | C13H15N
solvent | methanol | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | (1-Phenylcyclohexyl)methylamine | C1(=CC=CC=C1)C1(CCCCC1)CN | C13H19N
